US04597906
(d) Preparation of di-sulfosuccinic acid semiester
Under the conditions specified under (c) 50 parts of oxethylation product (b) are esterified with 10.6 parts of maleic anhydride, whereupon a solution of 13.7 parts of sodium sulfite (anhydrous) in 112 parts of water is added at 70° to 80° C. When the mixture has become clear, it is stirred for a further hour at the same temperature. The amount of water added can vary between 50 and 85% by weight of the final solution.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
product | di-sulfosuccinic acid | S(=O)(=O)(O)C(C(=O)O)C(C(=O)O)S(=O)(=O)O | C4H6O10S2
